US04556711
5-(4-Ureidophenyl)-2(1H)-pyrazinone
5-(4-Aminophenyl)-2(1H)-pyrazinone hydrochloride (1.0 g) was dissolved in water (25 ml), to which solution potassium cyanate (0.4 g) and 4-dimethylaminopyridine (about 0.005 g) were added. The mixture was stirred at room temperature for 18 hours and the resulting suspended material collected by filtration. This was washed in hot dimethylformamide (30 ml), the insoluble material being collected and washed with water to afford the title compound, m.p.>300° C.; n.m.r. δ(DMSO-d6) 5.90 (s, 2H,--CONH2), 7.98, 8.10 (2d, 2H, pyridine H's); ν(liquid paraffin) 1710, 1665 cm-1.

reactant | 5-(4-Aminophenyl)-2(1H)-pyrazinone hydrochloride | 1.0 g | Cl.NC1=CC=C(C=C1)C=1N=CC(NC1)=O
reactant | potassium cyanate | 0.4 g | [O-]C#N.[K+]
solvent | water | 25 ml | O | H2O
catalyst | 4-dimethylaminopyridine | about 0.005 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-(4-Ureidophenyl)-2(1H)-pyrazinone | N(C(=O)N)C1=CC=C(C=C1)C=1N=CC(NC1)=O | C11H10N4O2
